US09388176B2
6-t-Butoxycarbonyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-2-ylamine
A solution of 1-t-Butoxycarbonyl-3-(dimethylamino)methylene-4-piperidone (7.64 g, 30.04 mmol) in methanol (190 mL) was treated with guanidine carbonate (21.65 g, 120.16 mmol), followed by sodium acetate trihydrate (32.70 g, 240.32 mmol). The reaction mixture was heated at reflux for 17 hours and the solvent was removed in vacuo. The residue was diluted with water and the mixture was swirled for a few minutes. The undissolved white solid was collected and washed with water, followed by a small amount of cold ethyl acetate to give the title compound (4.10 g, 55%).

reactant | 1-t-Butoxycarbonyl-3-(dimethylamino)methylene-4-piperidone | 30.04 mmol, 7.64 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)=CN(C)C | C13H22N2O3
reactant | guanidine carbonate | 120.16 mmol, 21.65 g | C(O)(O)=O.NC(=N)N
reactant | sodium acetate trihydrate | 240.32 mmol, 32.70 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | methanol | 190 mL | CO | CH4O
product | 6-t-Butoxycarbonyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-2-ylamine | 4.10 g, 55% | C(C)(C)(C)OC(=O)N1CC2=C(N=C(N=C2)N)CC1 | C12H18N4O2
